US09163020B2
See FIG. 21(c). 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (40 mg, 0.13 mmol) was taken in a 50 ml single necked flask equipped with an air condenser connected to nitrogen source. NMP (3 ml, 31.17 mmol) was added to get a solution. Triethyl amine (0.056 ml, 0.40 mmol) was added followed by the addition of 2-(trifluoromethoxy)ethanamine hydrochloride (44.4 mg, 0.27 mmol). The reaction mass was stirred at RT for 5 minutes. HATU (61.2 mg, 0.16 mmol) was added and stirred at RT for 30 min. After the completion of the reaction, few drops of methanol was added and clear solution was subjected for reverse phase HPLC purification to get 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-N-(2-(trifluoromethoxy)ethyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide (15.00 mg, 27.3%). ES+MS m/z: 410 (M+1). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.25 (s, 3 H ) 3.68-3.80 (m, 2 H ) 3.93 (s, 3 H ) 4.24 (t, J=5.27 Hz, 2 H ) 5.69 (s, 2 H ) 7.26 (dd, J=8.29, 4.71 Hz, 1 H ) 7.94 (d, J=7.35 Hz, 1 H ) 8.28 (s, 1 H ) 8.38-8.54 (m, 2 H ) 8.96 (s, 1 H).

reactant | 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.13 mmol, 40 mg | COC1=C(C(=NC=N1)CN1C=C(C2=NC=CC=C21)C(=O)O)C | C15H14N4O3
reactant | NMP | 31.17 mmol, 3 ml | CN1CCCC1=O | C5H9NO
reactant | Triethyl amine | 0.40 mmol, 0.056 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(trifluoromethoxy)ethanamine hydrochloride | 0.27 mmol, 44.4 mg | Cl.FC(OCCN)(F)F
reactant | HATU | 0.16 mmol, 61.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | methanol | CO | CH4O
product | 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-N-(2-(trifluoromethoxy)ethyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | 15.00 mg, 27.3% | COC1=C(C(=NC=N1)CN1C=C(C2=NC=CC=C21)C(=O)NCCOC(F)(F)F)C | C18H18F3N5O3
